US04470989
41.1 4-(5-Chloro-2-nitroanilino)-piperidine hydrobromide
30 g of 1-carbethoxy-4-(5-chloro-2-nitroanilino)-piperidine in 400 ml of 48% strength hydrobromic acid were boiled under reflux, with stirring, for 4 hours. After the mixture had been cooled, the precipitate which had formed was filtered off with suction and washed with water and petroleum ether. The product was obtained as a light beige powder.

reactant | 1-carbethoxy-4-(5-chloro-2-nitroanilino)-piperidine | 30 g | C(=O)(OCC)N1CCC(CC1)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C14H18ClN3O4
reactant | hydrobromic acid | Br | BrH
product | 4-(5-Chloro-2-nitroanilino)-piperidine hydrobromide | Br.ClC=1C=CC(=C(NC2CCNCC2)C1)[N+](=O)[O-] | InChI=1S/C11H14ClN3O2.BrH/c12-8-1-2-11(15(16)17)10(7-8)14-9-3-5-13-6-4-9;/h1-2,7,9,13-14H,3-6H2;1H
